#Boost converter
V1 1 0 2.5
R1 1 2 0.00000001
L1 2 3 20u

M1 3 5 0 0 MOSFET
.model MOSFET NMOS(KP=.001)

D1 3 4 dio2

C1 4 0 320u
R2 4 0 20

.model MySwitch SW(Ron=.1 Roff=1Meg Vt=1 Vh=0 Lser=10n Vser=.6)

* 31250 Hz = .000032
* 47% DC = 0.00001504
*VS 5 0 PULSE(0 5 0.01 0 0 0.00001504 0.000032)
* 80 % DC = 0.0000256
*VS 5 0 PULSE(0 5 0.01 0 0 0.0000256 0.000032)
VS 5 0 PULSE(0 5 0.01 0 0 0.0000256 0.000032)

.tran 1e-10 1 UIC
.MEAS TRAN peak MAX I(L1)

* 1N4004 - 1A 400V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4004  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 600
+ IBV = 1.0E-03

.model dio2 D
