#Chopper Circuit
V1 10 3 SINE(0 576 60)
R1 10 2 16
D1 2 5 dio2
D2 0 2 dio2
D3 0 3 dio2
D4 3 5 dio2

M1 5 7 0 MOSFET
.model MOSFET NMOS(KP=.001)
.model Si4410DY VDMOS(Rd=3m Rs=3m Vto=2.6 Kp=60
+ Cgdmax=1.9n Cgdmin=50p Cgs=3.1n Cjo=1n
+ Is=5.5p Rb=5.7m)
C1 5 0 5900u

VS 7 0 PULSE(0 5 0.25 0 0 .00015 .002)


.tran 1e-5 .5 UIC
.MEAS TRAN peak MAX I(L1)

* 1N4004 - 1A 400V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4004  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 600
+ IBV = 1.0E-03

.model dio2 D
