#Coil gun design
C1 1 0 5900u ic=450
#C1 1 0 11800u ic=450
#C1 1 0 2950u ic=800
Rb 1 0 500k

SCR1 1 2 on1 0 MySwitch
L1 2 3 797u
RL1 3 0 0.498

SCR2 1 4 on2 0 MySwitch
L2 4 5 797u
RL2 5 0 0.498

#D1 0 2 1N4004
.model MySwitch SW(Ron=.1 Roff=1Meg Vt=1 Vh=0 Lser=10n Vser=.6)

VS1 on1 0 PULSE(0 10 0 0 0 .003)
VS2 on2 0 PULSE(0 10 .003 0 0 .003)

.tran .001 0.01 UIC
.MEAS TRAN peak MAX I(L1)

* 1N4004 - 1A 400V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4004  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 600
+ IBV = 1.0E-03
