RC time delay circuit
VAC 1 0 SINE(0 120 60)
Rs 1 2 10
L1 2 0 2000
L2 3 0 20
R1 3 4 0.01
K1 L1 L2 1

L3 4 0 10
L4 5 0 9000
Rl 5 0 500
K2 L3 L4 1


.model MyIdealDiode D(Ron=.1 Roff=1Meg Vfwd=.4)
.model Da1N4004 D (IS=18.8n RS=0 BV=400 IBV=5.00u CJO=30 M=0.333 N=2)
.MODEL DI1N4004 D (IS=76.9n RS=42.0m  BV=400 IBV=5.00u CJO=15.0p)
.model 1N4004 D( IS=76.9p RS=42.0m BV=400.0 IBV=5.00u CJO=39.8p M=0.333 N=1.45 TT=4.32u )
.model switch SW(Ron=.1 Roff=1Meg Vt=1.5 Vh=0 Lser=10n Vser=.6)
.tran .01 1 uic
.end
