RC time delay circuit
v1 1 0 SIN(0 120 60)
r1 1 2 0.01

c1 2 3 4.7u ic=0
d1 0 3 1N4004
c2 0 4 4.7u ic=0
d2 3 4 1N4004

#c5 4 0 5900u ic=0
c3 3 5 4.7u ic=0
d3 4 5 1N4004
c4 4 6 4.7u ic=0
d4 5 6 1N4004

d5 6 7 1N4008
c5 7 0 5900u ic=0

.tran 350 uic


* 1N4004 - 1A 400V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4004  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 400
+ IBV = 1.0E-03

* 1N4008 - 1A 800V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4008  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 800
+ IBV = 1.0E-03
