RC time delay circuit
v1 1 0 SIN(0 120 60)
rs 1 2 100
d1 2 3 1N4004
c1 3 0 5900u ic=0
rb 3 0 470k

.tran .1 300 uic

* 1N4004 - 1A 400V General Purpose Rectifier
* -----------------------------------------------
.MODEL  1N4004  D
+ IS = 3.699E-09
+ RS = 1.756E-02
+ N = 1.774
+ XTI = 3.0
+ EG = 1.110
+ CJO = 1.732E-11
+ M = 0.3353
+ VJ = 0.3905
+ FC = 0.5
+ ISR = 6.665E-10
+ NR = 2.103
+ BV = 400
+ IBV = 1.0E-03
.end
 